US20010056188A1
3-[3, 5-Bis(trifluoromethyl)phenylamino]-2-(4-chlorophenylsulfonyl)-3-cyclobutylamino-2-propenenitrile
3-(3,5-Bis(trifluoromethyl)phenylamino)-2-(4-chlorophenylsulfonyl )-3-methylsulfanyl-2-propenenitrile (0.400 g, 0.8 mmol) was stirred in cyclobutylamine (0.70 ml) at 60° C. for 20 h. Work up as described in Example 1, 2) gave 354 mg (85%) of the title compound as white crystals. Mp 190.5-193° C. 1H NMR (300 MHz, CDCl3): δ=1.5 (m, 2H), 1.72 (m, 1H), 2.0 (m, 3H), 3.63 (sextet, 1H), 7.42 (s, 2H), 7.48 (d, 2H), 7.67 (s, 1H), 7.79 (d, 2H); MA calc for C21H16CIF6N3O2S: C48.15%, H 3.08%, N 8.02%. Found: C48.38%, H 3.09%, N 7.96%.

reactant | 3-(3,5-Bis(trifluoromethyl)phenylamino)-2-(4-chlorophenylsulfonyl )-3-methylsulfanyl-2-propenenitrile | 0.8 mmol, 0.400 g | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=C(C#N)S(=O)(=O)C1=CC=C(C=C1)Cl)SC)(F)F | C18H11ClF6N2O2S2
reactant | cyclobutylamine | 0.70 ml | C1(CCC1)N | C4H9N
product | 3-[3, 5-Bis(trifluoromethyl)phenylamino]-2-(4-chlorophenylsulfonyl)-3-cyclobutylamino-2-propenenitrile | 354 mg, 85% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=C(C#N)S(=O)(=O)C1=CC=C(C=C1)Cl)NC1CCC1)(F)F | C21H16ClF6N3O2S
